US06835732B2
Morpholine-4-carboxylic acid [4-methoxy-7-(2-methyl-thiazol-4-yl)-benzothiazol-2-yl]-amide
0.07 g of 7-(2-Amino-thiazol-4-yl)-4-methoxy-benzothiazol-2-yl-amine (0.00025 Mol) were suspended in dioxane (4 ml) and treated with 0.028 g of NaH (60% dispersion in oil) (0.0006 Mol) for 1 h at room temperature. Then 0.11 ml of triethylamine (0.00076 Mol) and 0.07 ml of morpholine-4-carbonylchloride (0.0006 Mol) were added and the reaction mixture was stirred at room temperature for 3 hrs. Then water (15 ml) was added and the reaction mixture was extracted with ethyl acetate (4×, 20 ml each). The combined organic phases were dried over Na2SO4, filtered and evaporated. The residue was subjected to column chromatography (silicagel, ethyl acetate). The title compound was obtained as a light yellow solid (61%); F.p.: 223-226° C. (dec.).

reactant | 7-(2-Amino-thiazol-4-yl)-4-methoxy-benzothiazol-2-yl-amine | 0.00025 Mol, 0.07 g | NC=1SC=C(N1)C1=CC=C(C=2N=C(SC21)N)OC | C11H10N4OS2
reactant | NaH | 0.0006 Mol, 0.028 g | [H-].[Na+]
reactant | triethylamine | 0.00076 Mol, 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | morpholine-4-carbonylchloride | 0.0006 Mol, 0.07 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
product | Morpholine-4-carboxylic acid [4-methoxy-7-(2-methyl-thiazol-4-yl)-benzothiazol-2-yl]-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCOCC2)C=2N=C(SC2)C | C17H18N4O3S2
